US07465731B2
The mixture of 1-chloro-3-(triphenylphosphoranylidene)acetone (6.6 g) and ethyl glyoxylate (50% in toluene, 4.6 g) in dioxane (66 mL) was stirred at 80′ for 1.5 hour. The solvent was removed by concentration. The residue was purified by column chromatography on silica gel using a mixture of chloroform and hexane (1:1 v/v) as an eluent. The eluted fractions containing the desired product were collected and evaporated in vacuo to give ethyl (2E)-5-chloro-4-oxo-2-pentenoate (1.58 g).

reactant | 1-chloro-3-(triphenylphosphoranylidene)acetone | 6.6 g | ClCC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H18ClOP
reactant | ethyl glyoxylate | 4.6 g | C(C=O)(=O)OCC | C4H6O3
solvent | dioxane | 66 mL | O1CCOCC1 | C4H8O2
product | ethyl (2E)-5-chloro-4-oxo-2-pentenoate | 1.58 g | ClCC(/C=C/C(=O)OCC)=O | C7H9ClO3
